US04428959
0.5 Moles of n-undecyl cyanide and 0.5 moles of diethyl oxalate are mixed in 1,000 ml of dimethylformamide. To this solution is added with ice cooling 0.52 moles of potassium t-butoxide. The mixture is allowed to stir overnight at room temperature. Following evaporation (rotary evaporator under vacuum) of most of the dimethylformamide the residue is mixed with 3 liters of diethyl ether followed by the addition of 1 liter water. The mixture is acidified with concentrated hydrochloric acid to a pH of 3 and then the ether phase is separated. After washing the ether with water and drying the ether over magnesium sulfate evaporation of the ether affords 3-cyano-2-oxotridecanoic acid ethyl ester. Recrystallization from petroleum ether at 30°-60° C. provides pure material.

reactant | n-undecyl cyanide | 0.5 Moles | C(CCCCCCCCCC)C#N | C12H23N
reactant | diethyl oxalate | 0.5 moles | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 1,000 ml | CN(C=O)C | C3H7NO
product | 3-cyano-2-oxotridecanoic acid ethyl ester | C(C)OC(C(C(CCCCCCCCCC)C#N)=O)=O | C16H27NO3
